US04005208
To a stirred solution of 169 g. of N-cyclohexyl-3-pyrrolidinol in 600 ml. of chloroform, acidified with gaseous hydrogen chloride, is added 130 g. of thionyl chloride. This solution is refluxed for four hours, then poured onto ice water and made basic with sodium carbonate. The organic layer is dried over sodium sulfate, concentrated, and the residue distilled in vacuo to give N-cyclohexyl-3-chloropyrrolidine.

reactant | N-cyclohexyl-3-pyrrolidinol | C1(CCCCC1)N1CC(CC1)O | C10H19NO
reactant | hydrogen chloride | Cl | ClH
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N-cyclohexyl-3-chloropyrrolidine | C1(CCCCC1)N1CC(CC1)Cl | C10H18ClN
